US09303033B2
To 5-(3-chlorophenylamino)-7-(cyclopropylamino)pyrazolo[1,5-a]pyrimidine-3-carbaldehyde (26 mg, 0.08 mmol) in EtOH was added hydantoin (8 mg, 0.08 mmol) and piperidine (8 μl, 0.08 mmol). The mixture was stirred at 70° C. over the weekend. Insolubilities were filtered off, and filtrate was concentrated under reduced pressure. Filtrate was then dissolved in MeOH and isolated by prep HPLC to yield 5-((5-(3-chlorophenylamino)-7-(cyclopropylamino)pyrazolo[1,5-a]pyrimidin-3-yl)methylene)imidazolidine-2,4-dione. LCMS (M+1=410)

reactant | 5-(3-chlorophenylamino)-7-(cyclopropylamino)pyrazolo[1,5-a]pyrimidine-3-carbaldehyde | 0.08 mmol, 26 mg | ClC=1C=C(C=CC1)NC1=NC=2N(C(=C1)NC1CC1)N=CC2C=O | C16H14ClN5O
reactant | hydantoin | 0.08 mmol, 8 mg | N1C(=O)NC(=O)C1 | C3H4N2O2
reactant | piperidine | 0.08 mmol, 8 μl | N1CCCCC1 | C5H11N
solvent | EtOH | CCO | C2H6O
product | 5-((5-(3-chlorophenylamino)-7-(cyclopropylamino)pyrazolo[1,5-a]pyrimidin-3-yl)methylene)imidazolidine-2,4-dione | ClC=1C=C(C=CC1)NC1=NC=2N(C(=C1)NC1CC1)N=CC2C=C2C(NC(N2)=O)=O | C19H16ClN7O2
